US04051173
13.8 ml. of triethylamine are added, at 10° C., to a solution of 29.25 g. of 2-[4-(4-chlorophenoxy)-phenoxy]-propionic acid in 200 ml. of THF. The mixture is cooled to -10° C., a solution of 9.8 ml. of chloroformic acid ethyl ester in 60 ml, of THF is added dropwise and the mixture is stirred for 1 hour at -10° C. The solution contains 1-[4-(4-chlorophenoxy)-phenoxy]-4,6-dioxa-octane-3,5-dione, which is not isolated. 7.4 g. of NaBH4 are then introduced in portions. The mixture is stirred for 30 minutes at -10° C. and for 30 minutes at 0° C., poured into water and extracted with chloroform. After evaporation of the extract, the residue is boiled for 1 hour with 200 ml. of 6% ethanolic potassium hydroxide solution, the mixture is evaporated and worked up with water and ether to give 2-[4-(4-chlorophenoxy)-phenoxy]-propanol.

reactant | 2-[4-(4-chlorophenoxy)-phenoxy]-propionic acid | ClC1=CC=C(OC2=CC=C(OC(C(=O)O)C)C=C2)C=C1 | C15H13ClO4
reactant | chloroformic acid ethyl ester | C(C)OC(=O)Cl | C3H5ClO2
reactant | 1-[4-(4-chlorophenoxy)-phenoxy]-4,6-dioxa-octane-3,5-dione | ClC1=CC=C(OC2=CC=C(OCCC(OC(OCC)=O)=O)C=C2)C=C1 | C18H17ClO6
reactant | NaBH4 | [BH4-].[Na+]
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[4-(4-chlorophenoxy)-phenoxy]-propanol | ClC1=CC=C(OC2=CC=C(OC(CO)C)C=C2)C=C1 | C15H15ClO3
